US07414061B2
[4-(5-Methyl-3-phenyl-isoxazol-4-yl)-1-(4-nitro-phenyl)-1H-imidazol-2-ylmethyl]-(3-morpholin-4-yl-propyl)-amine
To a solution of 4-[2-chloromethyl-1-(4-nitro-phenyl)-1H-imidazol-4-yl]-5-methyl-3-phenyl-isoxazole (50 mg, 0.13 mmol) in DMF (2 mL) was added 4-(3-aminopropyl)morpholine (36.5 mg, 0.25 mmol) and KI (4.2 mg, 0.03 mmol) and the resulting mixture heated at 80° C. for 2 h. After cooling to room temperature, the mixture was then poured onto water and extracted with ethyl acetate. The combined organic layers were then washed with brine and water and then dried over sodium sulphate and evaporated. Purification by chromatography (SiO2, dichloromethane:methanol=100:0 to 80:20) afforded the title compound (47 mg, 74%) which was obtained as a yellow gum. MS: m/e=503.4 [M+H]+.

reactant | 4-[2-chloromethyl-1-(4-nitro-phenyl)-1H-imidazol-4-yl]-5-methyl-3-phenyl-isoxazole | 0.13 mmol, 50 mg | ClCC=1N(C=C(N1)C=1C(=NOC1C)C1=CC=CC=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C20H15ClN4O3
reactant | 4-(3-aminopropyl)morpholine | 0.25 mmol, 36.5 mg | NCCCN1CCOCC1 | C7H16N2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | [4-(5-Methyl-3-phenyl-isoxazol-4-yl)-1-(4-nitro-phenyl)-1H-imidazol-2-ylmethyl]-(3-morpholin-4-yl-propyl)-amine | 47 mg, 74% | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=C(N(C1)C1=CC=C(C=C1)[N+](=O)[O-])CNCCCN1CCOCC1 | C27H30N6O4
